US05616726
Preparation of lanthanum/(R)-1,1'-bi-2-naphthol complex solution
To a suspension of 122.6 mg (0.50 mmol) of anhydrous lanthanum trichloride in 6.0 ml of THF were added, in an argon atmosphere and at room temperature, a lithium binaphthoxide solution in THF [prepared by adding 0.625 ml (1.0 mmol) of a 1.6N n-butyllithium solution in hexane to a solution of 143.2 mg (0.50 mmol) of (R)-1,1'-bi-2-naphthol in 2.5 ml of THF], 48.1 mg (0.50 mmol) of sodium t-butoxide and 99 μl (5.5 mmol) of water in that order. The resultant mixture was stirred at room temperature for 15 hours. The insoluble matter was caused to precipitate by allowing the mixture to stand overnight, and the supernatant was submitted to the reaction proper as a lanthanum/(R)-1,1'-bi-2-naphthol complex solution (0.05 mol/l).

reactant | lanthanum trichloride | 0.50 mmol, 122.6 mg | [Cl-].[Cl-].[Cl-].[La+3]
reactant | lithium | [Li] | Li
reactant | n-butyllithium | 1.6N | C(CCC)[Li]
reactant | (R)-1,1'-bi-2-naphthol | 0.50 mmol, 143.2 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
reactant | sodium t-butoxide | 0.50 mmol, 48.1 mg | CC(C)([O-])C.[Na+]
reactant | water | 5.5 mmol, 99 μl | O | H2O
solvent | THF | 6.0 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | lanthanum (R)-1,1'-bi-2-naphthol | [La].C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | InChI=1S/C20H14O2.La/c21-17-11-9-13-5-1-3-7-15(13)19(17)20-16-8-4-2-6-14(16)10-12-18(20)22;/h1-12,21-22H;
